US08975264B2
Step 1: Preparation of 7-(3,5-difluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one (Chemical Formula 36)
3-Methylpyrazol-5-amine (526 mg) and ethyl 3-(3,5-difluorophenyl)-3-oxopropanoate (879 g) are stirred overnight in a pyridine (30 mL) solvent at 85° C. After cooling to room temperature, the reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The extracted organic layer is washed with brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is distilled under reduced pressure and purified by column chromatography to yield the target compound (521 mg).

reactant | 3-Methylpyrazol-5-amine | 526 mg | CC1=NNC(=C1)N | C4H7N3
reactant | ethyl 3-(3,5-difluorophenyl)-3-oxopropanoate | 879 g | FC=1C=C(C=C(C1)F)C(CC(=O)OCC)=O | C11H10F2O3
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 7-(3,5-difluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one | 521 mg | FC=1C=C(C=C(C1)F)C1=CC(NC=2N1N=C(C2)C)=O | C13H9F2N3O
